US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-(4-m-tolyl-piperazin-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(3-Methylphenyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.17 (t, 1H), 6.97 (br, 2H), 6.77 (d, 1H), 5.39 (s, 2H), 3.68 (m, 4H), 3.31 (m, 2H), 3.22 (m, 2H), 2.27 (s, 3H), 2.19 (s, 3H) ppm; MS (ES) M+H expected=401.1, found=401.1.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3-Methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-(4-m-tolyl-piperazin-1-yl)-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C=1C=C(C=CC1)C)C(F)(F)F | C18H20ClF3N4O
